US06284764B1
To a solution of 2-chloro-5-nitro-benzophenone(1.0 g) in THF (tetrahydrofuran) (15 ml) was added anhydrous hydrazine(120 mg). The resulting reaction mixture was kept stirring at room temperature for 2-4 hours. The solvent was removed in vacuo and the residue dissolved in EtOAc, washed with water and brine, dried over Na2SO4. Removal of the solvent afforded (0.8 g, 88%) product 6-Nitro-3-phenyl-1H-indazole(5). 6-Nitro-3-phenyl-1H-indazole was hydrogenated over H2/Pd and gave 0.5 9 of 3-phenyl-1H-indazol-6-ylamine (71.5%). M/z: 210.0. 1H NMR(CD3OD): 7.86(d, 2H, J=7.9 Hz), 7.47( t, J=8.1 Hz), 7.35(t, 3H, J=8.7 Hz), 7.01 (d, 1H, J=8.7 Hz).

reactant | 6-Nitro-3-phenyl-1H-indazole | [N+](=O)([O-])C1=CC=C2C(=NNC2=C1)C1=CC=CC=C1 | C13H9N3O2
catalyst | H2 Pd | [H][H].[Pd]
product | 3-phenyl-1H-indazol-6-ylamine | 71.5% | C1(=CC=CC=C1)C1=NNC2=CC(=CC=C12)N | C13H11N3
